US09446130B2
To a solution of 4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)-1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-ol (1 g, 3.3 mmol) in DMF (8 ml) was added NBS (584 mg, 3.3 mmol) portionwise at 0° C. After the addition was complete, the reaction mixture was stirred at 0° C. for 30 minutes. The mixture was diluted with water and extracted with ethyl acetate three times. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by preparative TLC to give 4-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)-1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-ol (860 mg, 68%). MS-ESI (m/z): 382 (M+1)+ (Acq Method: 10-80AB_2 min; Rt: 1.01 min)

reactant | 4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)-1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-ol | 3.3 mmol, 1 g | ClC=1C=2N(C=CN1)C(=NC2)C2(C=1C=NN(C1CCC2)C)O | C14H14ClN5O
reactant | NBS | 3.3 mmol, 584 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)-1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-ol | 860 mg, 68% | BrC=1N=C(N2C1C(=NC=C2)Cl)C2(C=1C=NN(C1CCC2)C)O | C14H13BrClN5O
